US04479962
1-(Oxindol-4-yloxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol benzoate
11.3 g. Ethyl [2-(2,3-epoxypropoxy)-6-nitrophenyl]-acetate (see Federal Republic of Germany Patent Specification No. 29 058 762) and 13.1 g 2-(2,6-dimethylphenylamino)-ethylamine (0.08 mol) in 100 ml. methanol are left to stand for 2 days at ambient temperature. 100 ml. Acetic acid and 1 g. 10% palladium-charcoal are then added thereto, followed by hydrogenation at a hydrogen pressure of 1 bar. After filtering off the catalyst, the filtrate is distilled in a vacuum and the residue remaining behind is dissolved in water. The base is precipitated out by adding an aqueous solution of potassium carbonate and extracted with ethyl acetate. After drying the extract over anhydrous sodium sulfate and evaporating the organic phase, there are obtained 7.2 g. of crude product. By dissolving this in propan-2-ol and adding the calculated amount of benzoic acid, there are obtained 4.3 g. (21% of theory) of the desired compound; m.p. 191° C.

reactant | Ethyl [2-(2,3-epoxypropoxy)-6-nitrophenyl]-acetate | O1C(COC2=C(C(=CC=C2)[N+](=O)[O-])CC(=O)OCC)C1 | C13H15NO6
reactant | 2-(2,6-dimethylphenylamino)-ethylamine | 0.08 mol, 13.1 g | CC1=C(C(=CC=C1)C)NCCN | C10H16N2
reactant | hydrogen | [H][H] | H2
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | propan-2-ol | CC(C)O | C3H8O
catalyst | palladium-charcoal | [Pd] | Pd
solvent | Acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 1-(Oxindol-4-yloxy)-3-[2-(2,6-dimethylphenylamino)-ethylamino]-propan-2-ol benzoate | C(C1=CC=CC=C1)(=O)OC(COC1=C2CC(NC2=CC=C1)=O)CNCCNC1=C(C=CC=C1C)C | C28H31N3O4
